US07655669B2
4-[[2-(Dimethylamino)ethyl]methylamino]-3-(trifluoromethyl)-benzonitrile
The title compound is prepared using an analogous method as described in Example 1.1, utilising 4-chloro-3-(trifluoromethyl)-benzonitrile (Lancaster Synthesis GmbH) and N,N,N′-trimethyl-1,2-ethanediamine (Fluka, Buchs, Switzerland).

reactant | 4-chloro-3-(trifluoromethyl)-benzonitrile | ClC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3ClF3N
reactant | N,N,N′-trimethyl-1,2-ethanediamine | CN(CCNC)C | C5H14N2
product | 4-[[2-(Dimethylamino)ethyl]methylamino]-3-(trifluoromethyl)-benzonitrile | CN(CCN(C1=C(C=C(C#N)C=C1)C(F)(F)F)C)C | C13H16F3N3
